US07820704B2
To an acetone (3 mL) solution of 3-({cyclopentyl-[2-(4-hydroxy-phenyl)-pyrimidin-4-yl]-amino}-methyl)-benzoic acid methyl ester (23 mg, 0.057 mmol) was added (bromomethyl)cyclohexane (11 mg, 0.063 mmol), K2CO3 (36 mg, 0.26 mmol) and tetrabutyammonium bromide (0.4 mg, 0.003 mmol). The resulting reaction mixture was heated in a CEM Exployer PLS™ microwave at 100° C. for 30 min. After cooling to room temperature the reaction mixture was filtered, and the residue was washed with acetone (4 mL). The solution was concentrated, and the crude solid was purified by silica gel chromatography eluting with hexanes/ethyl acetate 4:1 then 2:1 to yield 22 mg of 3-({[2-(4-cyclohexylmethoxy-phenyl)-pyrimidin-4-yl]-cyclopentyl-amino}-methyl)-benzoic acid methyl ester. LCMS m/z: 501 (M+1)+.

reactant | 3-({cyclopentyl-[2-(4-hydroxy-phenyl)-pyrimidin-4-yl]-amino}-methyl)-benzoic acid methyl ester | 0.057 mmol, 23 mg | COC(C1=CC(=CC=C1)CN(C1=NC(=NC=C1)C1=CC=C(C=C1)O)C1CCCC1)=O | C24H25N3O3
reactant | (bromomethyl)cyclohexane | 0.063 mmol, 11 mg | BrCC1CCCCC1 | C7H13Br
reactant | K2CO3 | 0.26 mmol, 36 mg | C(=O)([O-])[O-].[K+].[K+]
catalyst | tetrabutyammonium bromide | 0.003 mmol, 0.4 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetone | 3 mL | CC(=O)C | C3H6O
product | 3-({[2-(4-cyclohexylmethoxy-phenyl)-pyrimidin-4-yl]-cyclopentyl-amino}-methyl)-benzoic acid methyl ester | 22 mg | COC(C1=CC(=CC=C1)CN(C1CCCC1)C1=NC(=NC=C1)C1=CC=C(C=C1)OCC1CCCCC1)=O | C31H37N3O3
